US08865623B2
A portion of the iodonium ylide (2.0 g, 5.21 mmol) is added to a mixture of 2-ethyl-5-bromophenylboronic acid (1.43 g, 6.25 mmol), palladium(II) acetate (59 mg, 0.26 mmol) and lithium hydroxide monohydrate (0.656 g, 15.6 mmol) in 1,2-dimethoxyethane (40 ml) and water (10 ml), and the mixture is heated at 50° C. for 6 hours, and then allowed to stand at room temperature overnight. The mixture is filtered through diatomaceous earth, washing the filter cake with water (50 ml) and ethyl acetate (50 ml). The organic phase is discarded. The aqueous phase is acidified to pH2 by addition of concentrated hydrochloric acid, and then extracted with ethyl acetate. The organic extract is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 9-(5-bromo-2-ethylphenyl)-3-oxaspiro[5.5]undecane-8,10-dione.

reactant | iodonium | [IH2+]
reactant | 2-ethyl-5-bromophenylboronic acid | 6.25 mmol, 1.43 g | C(C)C1=C(C=C(C=C1)Br)B(O)O | C8H10BBrO2
reactant | lithium hydroxide monohydrate | 15.6 mmol, 0.656 g | O.[OH-].[Li+]
reactant | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
solvent | water | 10 ml | O | H2O
catalyst | palladium(II) acetate | 0.26 mmol, 59 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 9-(5-bromo-2-ethylphenyl)-3-oxaspiro[5.5]undecane-8,10-dione | BrC=1C=CC(=C(C1)C1C(CC2(CCOCC2)CC1=O)=O)CC | C18H21BrO3
